US04548943
2,3-DIHYDRO-1-[(4-METHYLPHENYL)SULFONYLOXIMINO]-1H-INDENE
A solution of p-toluenesulfonyl chloride (266 g) in pyridine (300 ml) was added dropwise to a stirred solution of 2,3-dihydro-1-hydroxyimino-1H-indene (100.8 g) in pyridine (600 ml) at 0°-5°. The mixture was stirred for 3 hours at 0°, then was poured into water and the title compound filtered. This was washed several times with water and air-dried.

reactant | p-toluenesulfonyl chloride | 266 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 2,3-dihydro-1-hydroxyimino-1H-indene | 100.8 g | ON=C1CCC2=CC=CC=C12 | C9H9NO
reactant | water | O | H2O
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 600 ml | N1=CC=CC=C1 | C5H5N
product | 2,3-DIHYDRO-1-[(4-METHYLPHENYL)SULFONYLOXIMINO]-1H-INDENE | CC1=CC=C(C=C1)S(=O)(=O)ON=C1CCC2=CC=CC=C12 | C16H15NO3S
